US07858632B2
4-Methoxy-3-trifluoromethyl-phenylamine (5 g, 26 mmol) in 12 mL water was cooled to −5 degrees C (Ice/Methanol bath). Conc. HCl was added dropwise (7 ml), and the reaction mixture was stirred for five minutes. A solution of NaNO2 (2.0 g, 29 mmol) dissolved in 3 ml water was added dropwise over 10 minutes, and the reaction mixture was tirred for 30 min. Sodium acetate (1.8 g, 22 mmol) was then added, and stirring was continued at −5 degrees C. In a separate flask, ethyl alpha-acetoacetate (4.55 g, 29 mmol) in 20 ml absolute ethanol was stirred, and KOH (1.6 g, 29 mmol) dissolved in 3 ml water was added, followed by ice (30 g). The resulting diazonium salt was added quickly to the reaction mixture, rinsing in with 5 ml EtOH, and the reaction mixture was stirred at zero degrees C for 3.5 hours, then stored at −10 C) for 16 hours. The reaction mixture was warmed to room temperature and extracted with ethyl acetate, washed with brine, and dried over magnesium sulfate. Solvent was removed under reduced pressure to leave a liquid residue. In a separate flask 100 ml EtOH and 21 ml acetyl chloride were mixed, with cooling in an ice bath, then heated to 70 degrees C. The liquid residue was added via pipette over 15 minutes to the acetyl chloride solution. This reaction mixture was heated to reflux for 2.5 hours, cooled, evaporated under reduced pressure. The residue was purified by colunm chromatography (10% ethyl acetate/hexane) to give 3.0 g 5-Methoxy-3-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester, 38% as a white solid. and triturated with diethyl ether to give 5-Methoxy-3-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester (1.0 g) as a white solid, and 5-Methoxy-3-methyl-4-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester (14% ) as a white solid.

reactant | 4-Methoxy-3-trifluoromethyl-phenylamine | 26 mmol, 5 g | COC1=C(C=C(C=C1)N)C(F)(F)F | C8H8F3NO
reactant | HCl | Cl | ClH
reactant | NaNO2 | 29 mmol, 2.0 g | N(=O)[O-].[Na+]
reactant | Sodium acetate | 22 mmol, 1.8 g | C(C)(=O)[O-].[Na+]
reactant | ethyl alpha-acetoacetate | 29 mmol, 4.55 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | KOH | 29 mmol, 1.6 g | [OH-].[K+]
reactant | acetyl chloride | 21 ml | C(C)(=O)Cl | C2H3ClO
solvent | water | 12 mL | O | H2O
solvent | water | 3 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | EtOH | 100 ml | CCO | C2H6O
product | 5-Methoxy-3-methyl-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1C)OC)C(F)(F)F | C14H14F3NO3
